US07868008B2
2-Cyclohexylmethyl-7-methyl-5-(1-pyrimidin-2-ylmethyl-piperidin-4-ylmethyl)-2,3-dihydro-isoindol-1-one
To a mixture of 2-Chloromethylpyrimidine (32 mg, 0.247 mmol), 2-Cyclohexylmethyl-7-methyl-5-piperidin-4-ylmethyl-2,3-dihydro-isoindol-1-one (56 mg, 0.164 mmol) and cesium carbonate (160 mg, 0.492 mmol) was added acetonitrile (3.0 mL). The mixture was allowed to stir at room temperature overnight. Water (2.0 mL) was added and the product was extracted with ethyl acetate. The organic layer was washed with water, brine, dried over sodium sulfate, filtered and concentrated. Column chromatography provided the title compound as a yellow oil (48 mg, 69%). 1H NMR (300 Adz, CDCl3): δ 8.76-8.72 (d, 2H), 7.18 (t, 1H), 6.99 (s, 1H), 6.95 (s, 1H), 4.30 (s, 2H), 3.78 (s, 2H), 3.40-3.37 (d, 2H), 2.97-2.93 (d, 2H), 2.70 (s, 3H), 2.58-2.56 (d, 2H), 2.10-2.05 (t, 2H), 1.71-1.42 (m, 10H), 1.26-1.13 (m, 4H), 1.09-0.98 (m, 2H).

reactant | 2-Chloromethylpyrimidine | 0.247 mmol, 32 mg | ClCC1=NC=CC=N1 | C5H5ClN2
reactant | 2-Cyclohexylmethyl-7-methyl-5-piperidin-4-ylmethyl-2,3-dihydro-isoindol-1-one | 0.164 mmol, 56 mg | C1(CCCCC1)CN1C(C2=C(C=C(C=C2C1)CC1CCNCC1)C)=O | C22H32N2O
reactant | cesium carbonate | 0.492 mmol, 160 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | acetonitrile | 3.0 mL | C(C)#N | C2H3N
solvent | Water | 2.0 mL | O | H2O
product | 2-Cyclohexylmethyl-7-methyl-5-(1-pyrimidin-2-ylmethyl-piperidin-4-ylmethyl)-2,3-dihydro-isoindol-1-one | 48 mg, 69% | C1(CCCCC1)CN1C(C2=C(C=C(C=C2C1)CC1CCN(CC1)CC1=NC=CC=N1)C)=O | C27H36N4O
